US06982348B2
6) (1RS,2SR)-2-amino-1-(3-chlorophenyl)-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propan-1-ol
To a solution of (4RS,5SR)-5-(3-chlorophenyl)-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin-2-one (3.70 g, 9.16 mmol) in ethanol (30 ml) was added 8N aqueous sodium hydroxide solution (5.7 ml, 46 mmol), and the mixture was heated under reflux for 3 hrs. The reaction solution was concentrated and diluted with water (100 ml). The mixture was extracted with ethyl acetate (100 ml×2). The extract was washed with saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure to give the objective substance (3.0 g, 87%).

reactant | (4RS,5SR)-5-(3-chlorophenyl)-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin-2-one | 9.16 mmol, 3.70 g | ClC=1C=C(C=CC1)C1C(NC(O1)=O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C18H14ClF4NO3
reactant | sodium hydroxide | 46 mmol, 8N, 5.7 ml | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (1RS,2SR)-2-amino-1-(3-chlorophenyl)-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propan-1-ol | NC(C(O)C1=CC(=CC=C1)Cl)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C17H16ClF4NO2
